US04551460
To a suspension of 9.74 g of 57% sodium hydride in 100 ml of dimethylformamide was added a solution of 15.0 g of imidazole in 500 ml of dimethylformamide at a temperature of 15°-25° C. The resulting mixture was heated to 60° C. for 1 hour, was cooled to room temperature and 62.8 g of benzyl 6-bromohexanoate was added. The mixture was heated to 60° C. for two hours, allowed to stand overnight at room temperature, and was evaporated. The residue was taken up in aqueous hydrochloric acid, washed with ether, made basic with sodium hydroxide and extracted with dichloromethane. The combined organic layers were dried, evaporated and distilled to yield 45.1 g (75%) of benzyl (1H-imidazol-yl)hexanoate.

reactant | sodium hydride | 9.74 g | [H-].[Na+]
reactant | imidazole | 15.0 g | N1C=NC=C1 | C3H4N2
reactant | benzyl 6-bromohexanoate | 62.8 g | BrCCCCCC(=O)OCC1=CC=CC=C1 | C13H17BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | benzyl (1H-imidazol-yl)hexanoate | 45.1 g, 75% | N1(C=NC=C1)C(C(=O)OCC1=CC=CC=C1)CCCC | C16H20N2O2
